Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right lower extremity ischemia with ulceration.

 
Major Surgical or Invasive Procedure:
OPERATION PERFORMED:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Contralateral third-order catheterization of right
    anterior tibial artery.
3. Additional third-order catheterization of right peroneal
    artery.
4. Primary stenting of right superficial femoral artery.
5. AngioJet of emboli to right popliteal artery and right
    peroneal artery.
6. Suction thrombectomy of right popliteal artery embolus.
7. Angioplasty of right anterior tibial artery.
8. Angioplasty of right peroneal artery.
9. Stenting of right popliteal and peroneal arteries.
10.Perclose closure of left common femoral arteriotomy.

 
History of Present Illness:
This is a ___ woman with
severe peripheral arterial disease.  She has a nonhealing
ulcer in the lateral aspect of her right heel.  Noninvasive
arterial studies suggested occlusion of her superficial
femoral artery.  Given these findings, the patient consented
for an arteriogram and possible angioplasty to improve her
wound healing.

 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms. 
 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  

 
Social History:
___
Family History:
Mother MI ___
Father MI ___
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

Rt 1+   dopp dopp  

Lt dopp dopp dopp  

 
Pertinent Results:
___ 05:55AM BLOOD 

WBC-7.0 RBC-3.94* Hgb-12.6 Hct-36.5 MCV-93 MCH-32.1* MCHC-34.6 
RDW-14.3 Plt ___

___ 06:00AM BLOOD 

___ PTT-60.4* ___

___ 05:55AM BLOOD 

Glucose-98 UreaN-25* Creat-1.3* Na-137 K-4.3 Cl-99 HCO3-27 
AnGap-15

___ 05:55AM BLOOD 

Calcium-9.3 Phos-3.8 Mg-1.___ was admitted on ___ with R lower extremity ulcer. 
She agreed to have an elective surgery. Pre-operatively, she was 
consented. A CXR, EKG, UA, CBC,  Electrolytes, T/S - were 
obtained,  all other preparations were made.

It was decided that he would undergo:

OPERATION PERFORMED:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Contralateral third-order catheterization of right
    anterior tibial artery.
3. Additional third-order catheterization of right peroneal
    artery.
4. Primary stenting of right superficial femoral artery.
5. AngioJet of emboli to right popliteal artery and right
    peroneal artery.
6. Suction thrombectomy of right popliteal artery embolus.
7. Angioplasty of right anterior tibial artery.
8. Angioplasty of right peroneal artery.
9. Stenting of right popliteal and peroneal arteries.
10 .Perclose closure of left common femoral arteriotomy.

She was prepped, and brought down to the Endo suite room for  
surgery. Intra-operatively, she was closely monitored and  
remained hemodynamically stable. He tolerated the procedure well 
 without any difficulty. Pt clotted off popliteal and AT artery

Post-operatively, transferred to the PACU for further  
stabilization and monitoring.

She was then transferred to the VICU for further recovery. While 
 in the VICU she received monitored care. When stable he was 
delined. Her diet was advanced.  When she was stabilized from 
the acute setting of post operative care, she was transferred to 
floor status. 

She was put on IV heparin afterward for thrombus to the AT 
artery. Her PTT was monitored. POD # 2 Coumadin started. She was 
discharged on Lovenox / Coumadin bridge. Dr ___  ___ the 
___ clinic will follow her INR.

She received vein mapping for possible BPG in future.

On the floor, she remained hemodynamically stable with his pain 
controlled. She continues to make steady progress without any 
incidents. She was discharged home in stable condition.

She did receive preoperative hydration. On DC her creatinine is 
stable.

 
Medications on Admission:
 Calcitriol 0.5 mcg, Citalopram 20 mg, Cyclosporine0.05 % 
Dropperette 2 drops to both eyes twice a day, Erythromycin 5 
mg/gram Ointment apply bid to both eyes, Gabapentin 800 mg 
Tablet 2 Tablet q am, HUMALOG USE AS DIRECTED FOR IDDM AND 
INSULIN PUMP, Hydrochlorothiazide 12.5 mg, Glargine ___t bedtime Levothyroxine, 75 mcg, Lisinopril 5 mg, 0.5 mg Tablet 
qpm, Loteprednol Etabonate 0.5 % Drops, Suspension 1 drop bid 
prn, Metoclopramide 10 mg Tablet, 30 minutes before meals, 
Mupirocin Calcium [Bactroban] 2 % Cream apply ___ qd prn, 
OxyContin10 mg Tablet Sustained Release 12 hr 4 Tablet(s) by 
mouth in the morning and 1 tab by mouth in the evening, 
Oxycodone-Acetaminophen 5 mg-325 mg PRN, Pantoprazole 40 mg, 
Simvastatin [Zocor] 40 mg, Ascorbic Acid ___ mg Capsule, 
Sustained Release 2 Capsule(s) by mouth qam, Aspirin 81 mg, 
Carboxymethylcellulose Sodium [Refresh] 1 % Drops, Flaxseed Oil, 
Iron, Multivitamin, Nicotine 4 mg Lozenge, PEG 400-Propylene 
Glycol [Systane] 0.3 %-0.4 % Dropperette 1 drop as needed, 
Vitamin E 400 unit
 
Discharge Medications:
1. Warfarin 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
continue for 3 months from ___ procedure.  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Gabapentin 400 mg Capsule Sig: Four (4) Capsule PO DAILY 
(Daily).  
5. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*3*
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Vitamin E 400 unit Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
10. Ascorbic Acid ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
12. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO QAM (once a day (in the 
morning)).  
13. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO QPM (once a day (in the 
evening)).  
14. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed).  
15. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
17. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
18. Cyclosporine 0.05 % Dropperette Sig: One (1) Dropperette 
Ophthalmic BID (2 times a day).  
19. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic BID (2 
times a day).  
20. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  
21. Lotemax 0.5 % Drops, Suspension Sig: One (1)  Ophthalmic qd 
().  
22. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1)  Subcutaneous 
Q12  () for 7 days: Stop when your INR is two or greater.
Disp:*10 60 mg/0.6 mL Syringe* Refills:*1*
23. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed.  
24. Lantus 100 unit/mL Solution Sig: One (1) 24 U Subcutaneous 
at bedtime.  
25. Insulin Pump
Take as directed
26. INR
Please draw INR. Fax results to ___ office at
___. Phone # ___. 

This should be done starting ___. Then twice a week x 1 week. 
then per ___ clinic

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right lower extremity ischemia with ulceration.

 
Discharge Condition:
Stable

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

You are bing put on coumadin to keep blood flow to your lower 
extremity.

How will I be treated for this condition ?

You will receive two daily subcutaneous (underneath the skin) 
injections of enoxaparin (Lovenox) for ___ days along with a 
longer course of an oral medication called warfarin (Coumadin). 
Both medications belong to a class of drugs known as 
anticoagulants. Anticoagulants prevent clots.

How is enoxaparin (Lovenox) given?

Enoxaparin is given subcutaneously twice daily. Many patients 
can give the injections to themselves at home, and you can be 
given instructions to learn how to give yourself these 
injections if this is an appropriate plan for you. It is 
important to give the medication exactly as directed.

When to stop enoxaparin (Lovenox)?

Your PCP ___ tell you when to stop enoxaparin. This is stopped 
when your INR is above 2 (this is a reflection of coumadin). 
When your INR is at 2, this means that you blood is thin enough 
to be on coumadin alone. The level of INR when you are on 
coumadin is ___.

How is warfarin (Coumadin) given?

Warfarin is given orally once daily. You will be getting regular 
blood tests to measure how well this medication is working. The 
dose of warfarin may be adjusted according to the results of the 
blood tests.

What should I do if I miss ___ dose of enoxaparin or warfarin?

You should contact ___ as soon as you 
notice that you have missed a dose.

What are some of the side effects of enoxaparin?

Approximately 2% of patients may experience bleeding. Please 
notify PCP: ___ immediately if you 
experience any of the following symptoms:

unusual bleeding or bruising (e.g., bleeding gums, red spots on 
the skin, nose bleeds)
 
heavy menstrual bleeding 

blood in urine or stool; black tarry stools
 
back pain or stomach pain
 
cold, blue, or painful feet
 
Other minor side effects include skin irritation, pain, and 
bruises at the injection site.

What are some of the side effects of warfarin?

Like enoxaparin the major complication of warfarin is bleeding. 
Therefore, you should notify PCP: ___ if 
you experience any of the symptoms listed in the previous 
answer. Please check with your doctor for more information on 
warfarin.

Should I be aware of other signs and symptoms?

You should notify PCP: ___. ___ immediately 
if you experience chest pain, shortness of breath, a feeling of 
passing out, or palpitation (heart racing).

What medications do I need to avoid while on these medications?
You should avoid taking medications that contain aspirin, 
medications such as ibuprofen (Advil, Motrin, Nuprin), naproxen 
(Aleve), ketoprofen (Orudis KT, Actron Caplets), or any other 
non-steroidal anti-inflammatory drugs (NSAIDs). You should 
always check with your doctor before starting any new 
prescription or over-the-counter medication. Moreover, alcohol 
and various food may also interact with warfarin. Please check 
with your doctor, nurse or pharmacist for more information.

What other precautions do I need to take while on these 
medications?
Monitor signs and symptoms of bleeding.
 
Be careful while brushing or flossing your teeth. 

Avoid injuries.
 
Keep enoxaparin syringes at room temperature. Do not refrigerate 
or freeze enoxaparin. Store away from heat and direct light.

Keep all medications out of the reach of children

 
Followup Instructions:
___